US08975400B2
3,5-difluoro-4-(3-fluoro-4(trifluoromethyl)phenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4,5-trifluorobenzaldehyde and 3-fluoro-4-(trifluoromethyl)phenol.

reactant | 3,4,5-trifluorobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | 3-fluoro-4-(trifluoromethyl)phenol | FC=1C=C(C=CC1C(F)(F)F)O | C7H4F4O
product | 3,5-difluoro-4-(3-fluoro-4(trifluoromethyl)phenoxy)benzaldehyde | FC=1C=C(C=O)C=C(C1OC1=CC(=C(C=C1)C(F)(F)F)F)F | C14H6F6O2
